US05712300
A cold (0° C.) solution of tert-butyl α-[2-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)ethyl]-3-(2-methylpropyl)-2-oxo-1-(phenylmethyl)-3-pyrrolidineacetate (500 mg, 0.964 mmol) in CH2Cl2 (2 ml) is treated with TFA (2 mL) and maintained at 0° C. for 1 hour, and then at room temperature for 1 hour. The solvent is removed in vacuo to give a quantitative yield of α-[2-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)ethyl]-3-(2-methylpropyl)-2-oxo-1-(phenylmethyl)-3-pyrrolidineacetic acid as a gelatinous solid.

reactant | tert-butyl α-[2-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)ethyl]-3-(2-methylpropyl)-2-oxo-1-(phenylmethyl)-3-pyrrolidineacetate | 0.964 mmol, 500 mg | O=C1N(C(C2=CC=CC=C12)=O)CCC(C(=O)OC(C)(C)C)C1(C(N(CC1)CC1=CC=CC=C1)=O)CC(C)C | C31H38N2O5
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
product | α-[2-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)ethyl]-3-(2-methylpropyl)-2-oxo-1-(phenylmethyl)-3-pyrrolidineacetic acid | quantitative yield | O=C1N(C(C2=CC=CC=C12)=O)CCC(C(=O)O)C1(C(N(CC1)CC1=CC=CC=C1)=O)CC(C)C | C27H30N2O5
